US04182762
A solution of 14.1 pts. by wt. of freshly distilled benzaldehyde in 30 pts. by vol. of abs. THF is added dropwise to a solution of 10.0 pts. by wt. of (2-amino-ethyl)-hydrazine in 50 pts. by vol. of abs. THF. 6 pts. by wt. of magnesium sulphate are then added and the mixture is stirred overnight at RT. The THF is stripped off and the residue is taken up in 200 pts. by vol. of abs. methanol and 15.5 pts. by wt. of oxalic acid dimethyl ester are added. After stirring for 2 days at RT, a small amount of insoluble material is filtered off and the filtrate is concentrated and recrystallised from acetonitrile. 1.4 pts. by wt. of 1-benzylideneamino-2,3-dioxopiperazine of melting point 231°-234° C. are obtained.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | (2-amino-ethyl)-hydrazine | NCCNN | C2H9N3
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | oxalic acid dimethyl ester | COC(C(=O)OC)=O | C4H6O4
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 1-benzylideneamino-2,3-dioxopiperazine | C(C1=CC=CC=C1)=NN1C(C(NCC1)=O)=O | C11H11N3O2
